US07557114B2
(a) 2-Benzyl-5-(2,5-dihydro-furan-3-yl)-2,3-dihydro-1H-isoindole
Prepared in analogy to Example A65(a) from 3-(2-benzyl-2,3-dihydro-1H-isoindol-5-yl)-tetrahydro-furan-3-ol (Example A66(a)) and methanesulfonyl chloride, triethylamine, and DBU. Brown solid. MS (m/e): 278.0 ([M+H]+, 100%).

reactant | 3-(2-benzyl-2,3-dihydro-1H-isoindol-5-yl)-tetrahydro-furan-3-ol | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C1(COCC1)O | C19H21NO2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Benzyl-5-(2,5-dihydro-furan-3-yl)-2,3-dihydro-1H-isoindole | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C=1COCC1 | C19H19NO
